US07589232B2
Step a) Formation of methyl (4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(1H-indazol-3-ylcarbonyl)amino]methyl}phenoxy)acetate
The titled compound was prepared following the procedure H using methyl {4-[({4-[(4-butylphenyl)ethynyl]benzyl}amino)methyl]phenoxy}acetate and 1H-indazole-3-carboxylic acid as a yellow oil (55%). 1H NMR (MeOD, 300 MHz) δ 8.05 (m, 1H), 7.17-7.56 (m, 13H), 6.88 (m, 2H), 5.06 (s, 1H), 5.02 (s, 1H), 4.68 (m, 4H), 3.76 (s, 3H), 2.62 (t, J=7.4 Hz, 2H), 1.60 (m, 2H), 1.34 (m, 2H), 0.94 (t, J=7.4 Hz, 3H). M− (ESI): 584.4; M+ (ESI): 5.86.3. HPLC, Rt: 5.49 min (Purity: 84.1%).

reactant | methyl {4-[({4-[(4-butylphenyl)ethynyl]benzyl}amino)methyl]phenoxy}acetate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNCC2=CC=C(OCC(=O)OC)C=C2)C=C1 | C29H31NO3
reactant | 1H-indazole-3-carboxylic acid | N1N=C(C2=CC=CC=C12)C(=O)O | C8H6N2O2
product | methyl (4-{[{4-[(4-butylphenyl)ethynyl]benzyl}(1H-indazol-3-ylcarbonyl)amino]methyl}phenoxy)acetate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(=O)C2=NNC3=CC=CC=C23)CC2=CC=C(OCC(=O)OC)C=C2)C=C1 | C37H35N3O4
